US09255090B2
Synthesis of (4-chloro-3-isopropoxy-phenyl)-acetic acid tert-butyl ester (C15H21O3Cl, MW=284.12)
To a solution of 4-bromo-1-chloro-2-isopropoxy-benzene (2.48 g, 9.8 mmol, 1.0 eq.) and bis(tri-tert-butylphosphine)palladium(0) (501 mg, 0.98 mmol, 0.1 eq.) in dioxane (84 mL), a 0.5M solution of 2-tert-butoxy-2-oxoethylzinc chloride in Et2O (35.3 mL, 17.6 mmol, 1.8 eq.) was added. The resulting mixture was stirred at r.t. for 2 days. The mixture was filtered over celite and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane 100% to Heptane+8% AcOEt) to yield the title compound as a colorless oil.

reactant | 4-bromo-1-chloro-2-isopropoxy-benzene | 9.8 mmol, 2.48 g, 1.0 eq. | BrC1=CC(=C(C=C1)Cl)OC(C)C | C9H10BrClO
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | Et2O | 17.6 mmol, 35.3 mL, 1.8 eq. | CCOCC | C4H10O
solvent | dioxane | 84 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.98 mmol, 501 mg, 0.1 eq. | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (4-chloro-3-isopropoxy-phenyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=C(C=C1)Cl)OC(C)C)=O | C15H21ClO3
